US08106064B2
To a stirred ethanol (150 mL), was added 3-(bromomethyl)-5-methylbenzonitrile (48 g, 0.228M), potassium cyanide (27 g, 0.42M), and distilled water (77 mL). The mixture was then refluxed for 3 hr. After cooling to room temperature, the reaction mixture was evaporated in vacuo and the residue was partitioned between ether and water. The ether layer was taken, dried with anhydrous magnesium sulfate, filtered, evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, ether:hexane (1:1)) to afford 18.3 g (51%) of 3-(cyanomethyl)-5-methylbenzonitrile as a pale yellow solid. m.p. 63-64° C. 1H NMR (300 MHz, CDCl3) δ 2.42 (3H, s), 3.77 (2H; s), 7.42 (2H, s), 7.45 (1H, s).

reactant | 3-(bromomethyl)-5-methylbenzonitrile | 0.228M, 48 g | BrCC=1C=C(C#N)C=C(C1)C | C9H8BrN
reactant | potassium cyanide | 0.42M, 27 g | [C-]#N.[K+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 3-(cyanomethyl)-5-methylbenzonitrile | 18.3 g, 51% | C(#N)CC=1C=C(C#N)C=C(C1)C | C10H8N2
